US06642228B1
4-(1-Naphthyl)piperidine Hydrochloride
A solution of 4-(1-naphthyl)-1-(2,2,2-trichloroethoxycarbonyl)piperidine (0.85 g, 2.2 mmol) and a powdered zinc (0.80 g, 1.2 mmol) in acetic acid (22 mL) was stirred at room temperature overnight. After filtrating the reaction mixture through Celite, the filtrate was concentrated, and a saturated aqueous sodium hydrogencarbonate was then added to pH of 10, and the resulting mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the chloroform layer was concentrated, and the resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; chloroform) to afford a free form of the title compound (0.4 g) as a pale yellow oil. After adding hydrochloric acid/methanol, a solution of the free form (0.4 g) in methanol was cooled to afford the title compound (0.36 g, yield: 66%) as white crystals.

reactant | 4-(1-naphthyl)-1-(2,2,2-trichloroethoxycarbonyl)piperidine | 2.2 mmol, 0.85 g | C1(=CC=CC2=CC=CC=C12)C1CCN(CC1)C(=O)OCC(Cl)(Cl)Cl | C18H18Cl3NO2
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.2 mmol, 0.80 g | [Zn] | Zn
product | 4-(1-Naphthyl)piperidine Hydrochloride | 0.4 g | Cl.C1(=CC=CC2=CC=CC=C12)C1CCNCC1 | InChI=1S/C15H17N.ClH/c1-2-6-14-12(4-1)5-3-7-15(14)13-8-10-16-11-9-13;/h1-7,13,16H,8-11H2;1H
